Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI in H&P by Dr. ___ ___: 
"Ms. ___ is a ___ female with a PMH of
Alzheimer's dementia, HTN, and other issues who was brought to
the ___ by EMS with abdominal pain and reported altered mental
status.  At the time of this evaluation, the patient was unable
to use the phone ___ interpreter due to confusion, and the
patient's son and daughter could not be reached by telephone. 
The only information available at this time is what is in the ___
dash, the ___ RN note, and the EMS run report.  

The patient was brought in to the ___ by EMS at the encouragement
of her PCP for concern for failing to thrive at home.  Her
daughter also reported her complaining of increasing abdominal
pain at home.  She is incontinent of urine at baseline.  The
patient has been treated for multiple UTIs, most recently on
___.  ___ RN note, her PCP stopped all medications 
apart
from Trazodone and Quetiapine.  She had previously been on
Donepezil and Namenda, but these seemed to be keeping her up at
night (she has a behavior of chanting in ___ that she is
doing here).  

Also per ___ RN note, the patient was hospitalized at an OSH (not
within the BI linked EMR network) on ___, where she was
told her troponins were high and she was restarted on BP meds
that had previously been stopped.  Apparently on follow-up, 
these
were stopped, and she is only on trazodone and quetiapine
(looking at very old notes in OMR, she had been on Lisinopril 
and
Propranolol in the remote past).  In the ___, the patient's
daughter noted that she is chanting "die, die, I wan't to die." 
Eventually, straight-cath urine sample was obtained.  

In the ___, initial VS were 99.1 61 144/80 16 93% RA.  The
patient's mental status was noted as waxing and waning between
chanting the above and being calm and cooperative.  Labs were
notable for FSBG 161, WBC 6.0 w/ normal diff, Hgb 12.2, plts 
122,
LFTs WNL with exception of lipase 62, albumin 3.4, BUN/Cr ___
with normal lytes, UA with 0 epis, 7 WBC, moderate bacteria, and
hyaline casts.  EKG showed L axis deviation but was without
evidence of ischemia.  UCx was collected, the patient received
Olanzapine 5 mg PO disintegrating and Ceftriaxone 1g and was
admitted.  Vitals prior to transfer were 98.3 71 119/82 16 97%
RA. 

On arrival to the floor, the patient was chanting continuously
and appeared in mild distress; however, she engaged easily and
appeared more comfortable with reassurance.  

ROS: A 10-point review of systems was not able to be performed
due to the patient's mental status."
 
Past Medical History:
-Alzheimer's dementia (mental status baseline unknown)
-HTN
-Vulvar dysplasia s/p excision in ___
 
Social History:
___
Family History:
Per prior notes, she noted no family history of cancer
 
Physical Exam:
ADMISSION EXAM:
VITALS: 97.7 Axillary 137 / 70 73 18 95 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.  Upper
and lower dentures.  
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  There is a well-healed midline abdominal
incision.
GU: No suprapubic fullness or tenderness to palpation.  Vulva
with some excoriation and atrophy consistent with known history
of lichen planus 
MSK: Neck supple, moves all extremities, unable to assess
strength.  Of note, her toenails are neat and trimmed, and
painted to match her fingernails.  
SKIN: No rashes or ulcerations noted
NEURO: Unable to assess orientation, but face symmetric, gaze
conjugate with EOMI, moves all limbs 
PSYCH: Unable to assess orientation.  Engaged easily and became
calm during exam.

DISCHARGE EXAM:
VS: Afebrile and hemodynamically stable; refer to eFlowsheet
GENERAL: Alert, NAD, rocking back and forth and chanting in 
___, daughter at the bedside
EYES: Anicteric, PERRL
ENT: MMM, OP clear
CV: NR/RR, no audible murmur over patient's chanting
RESP: CTAB although limited by patient participation
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation.  Vulva
with some excoriation and atrophy. No discharge.
MSK: Neck supple, moves all extremities, no ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Unable to assess orientation, but face symmetric, gaze
conjugate with EOMI, moves all limbs 
PSYCH: Unable to assess.

 
Pertinent Results:
ADMISSION LABS:
___ 08:59PM BLOOD WBC-6.0 RBC-4.17 Hgb-12.2 Hct-37.4 MCV-90 
MCH-29.3 MCHC-32.6 RDW-12.7 RDWSD-42.0 Plt ___
___ 08:59PM BLOOD Glucose-137* UreaN-14 Creat-1.0 Na-142 
K-4.4 Cl-106 HCO3-26 AnGap-10
___ 07:28AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.1
___ 08:59PM BLOOD ALT-8 AST-16 AlkPhos-58 TotBili-0.2
___ 08:59PM BLOOD Lipase-62*
___ 08:59PM BLOOD Albumin-3.4*

IMAGING:
CXR PA/Lat (___):
IMPRESSION:  
No previous images.  There is substantial elevation of the right 

hemidiaphragmatic contour with splenic flexure just beneath it, 
consistent 
with colonic interposition.  Mild atelectatic changes are seen 
at the right base. Cardiac silhouette is within normal limits 
and there is no vascular congestion or acute focal pneumonia. 

AXR (___):
IMPRESSION: 
1. Nonobstructive bowel gas pattern. 
2. Mild stool burden, scattered throughout the colon. 

MICRO:
UCx ___:
   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 
BCx ___: 
   Blood Culture, Routine (Final ___:    NO GROWTH.

DISCHARGE LABS:
___ 07:28AM BLOOD WBC-5.5 RBC-3.97 Hgb-11.7 Hct-35.9 MCV-90 
MCH-29.5 MCHC-32.6 RDW-12.5 RDWSD-41.6 Plt ___
___ 07:28AM BLOOD Glucose-85 UreaN-12 Creat-0.9 Na-143 
K-4.1 Cl-105 HCO3-29 AnGap-9*
___ 07:28AM BLOOD Lipase-48
 
Brief Hospital Course:
SUMMARY/ASSESSMENT:  
Ms. ___ is a ___ female with a PMH of Alzheimer's 
dementia, HTN, and other issues who was brought to the ___ by EMS 
with abdominal pain and reported altered mental status. 

ACUTE/ACTIVE PROBLEMS:

# Alzheimer's dementia
Per her daughters, the patient was at her baseline mental 
status. At baseline she is only sometimes oriented to self and 
does not consistently recognize family members. Her daughter 
felt that the trazodone she has been on has been making her more 
agitated at home, so we elected to stop this. In order to 
reinforce sleep-wake cycle, ramelteon at night was started. Her 
home  quetiapine was continued, unchanged. 

# Reported abdominal pain
# History of multiple UTIs
Her daughter reported that earlier she was clutching her 
abdomen, like she has done when she has urinary tract infections 
in the past. She brought her in because she was concerned she 
had a urinary tract infection. Her UA was not consistent with 
UTI and urine culture grew alpha hemolytic GPCs consistent with 
contaminant. On exam, she had no abdominal tenderness. AXR 
showed non-obstructive bowel gas pattern and moderate stool 
burden. She did have some vaginal atrophy on exam; her daughter 
seemed to think that her vaginal area was bothering her. She had 
been treated with fluconazole x3 doses 72 hours apart within the 
last ___ weeks. She had no vaginal discharge on exam. A trial of 
topical estrogen cream was prescribed. 

>30 minutes spent on patient's complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO TID 
2. QUEtiapine Fumarate 50 mg PO TID 
3. Polyethylene Glycol 17 g PO DAILY 
4. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  Estrace (estradiol) 0.01 % (0.1 mg/gram) vaginal DAILY 
RX *estradiol 0.01 % Insert ___ g daily intravaginally ___ weeks 
Disp #*1 Package Refills:*0 
2.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY  
4.  QUEtiapine Fumarate 50 mg PO TID 
RX *quetiapine 50 mg 1 tablet(s) by mouth three times a day Disp 
#*21 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vaginal atrophy 
Alzheimer's dementia with behavioral disturbance 
Insomnia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___ were admitted to the hospital for vaginal discomfort. It 
looks like ___ have vaginal atrophy which can cause breakdown of 
the vaginal tissue. ___ were prescribed estrogen cream for this. 
Based on the preliminary urine studies, it does not look like 
___ have a urinary tract infection. ___ were also prescribed 
ramelteon to help ___ sleep (in place of the trazodone, which 
was not working). ___ were also prescribed citalopram since this 
had a good effect on your mood in the past. ___ should follow up 
with your primary care doctor as detailed below.
Take care,
Your ___ Care Team
 
Followup Instructions:
___